US04366153
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.5 g.), conc. hydrochloric acid (0.8 ml.), methanol (30 ml.) and tetrahydrofuran (30 ml.) was stirred at room temperature for 3 hours. After evaporation, methanol was added to the residue. The solution was evaporated in vacuo again, and the residue was dissolved in water (30 ml.). The solution was adjusted to pH 3.5 with saturated aqueous sodium bicarbonate solution under ice-cooling. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (trademark: Mitsubishi Chemical Industries Ltd.) and eluted with 30% aqueous isopropyl alcohol. The eluate was concentrated in vacuo and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.6 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C30H39N9O10S4
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.6 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O)=NOCCCN | C19H23N9O5S4
